US06075095
In this example, a coupled isoprene-butadiene rubber (IBR) was prepared in a one-gallon (3.8 liters) batch reactor at 70° C. In the procedure used, 2,000 grams of a silica/molecular sieve/aluminum dried premix containing 19.0 weight percent of a mixture of isoprene and 1,3-butadiene in hexanes at the ratio of 10:90 was charged into a one-gallon (3.8 liters) reactor. After the amount of impurity in the premix was determined, 4.0 ml of a 1.0 M solution of n-butyl lithium (in hexane) was added to the reactor. The target Mn (number averaged molecular weight) was 100,000. The polymerization was allowed to proceed at 70° C. for three hours. An analysis of the residual monomer indicated that monomers were all consumed. Then, 1.0 ml of a 1 M solution of tin tetrachloride (in hexane) was added to the reactor and the coupling reaction was carried out at the same temperature for 30 minutes. At this time, 1.5 phr (parts per 100 parts by weight of rubber) of 4-t-butylcatechol and 0.5 phr of TMEDA was added to the reactor to shortstop the polymerization and to stabilize the polymer.

reactant | 4-t-butylcatechol | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
reactant | TMEDA | CN(C)CCN(C)C | C6H16N2
product | isoprene butadiene | C=CC(C)=C.C=CC=C | InChI=1S/C5H8.C4H6/c1-4-5(2)3;1-3-4-2/h4H,1-2H2,3H3;3-4H,1-2H2
